US06159902
A solution of ethyl 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanoate (43 g) in tetrahydrofuran was added to lithium aluminium hydride (220 ml of a 1M solution in ether) with stirring at -40° C. After 1 hour the solution was cooled to -70° C., diluted with ether, and treated with brine via dropwise addition, initially at -70° C. and then at -30° C. After warning to room temperature the organic layer was dried (magnesium sulphate), evaporated and the residue purified by dry column chromatography on silica gel eluting with dichloromethane to give 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropionaldehyde as a cream solid (22.5 g), NMR 1.35(s,6H), 1.95(s,3H), 5.25(s,2H), 7.22-7.38(m,5H), 9.42(s,1H).

reactant | ethyl 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanoate | 43 g | CC1=C(C(N(CO1)C(C(=O)OCC)(C)C)=O)C1=CC=CC=C1 | C17H21NO4
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | brine | [Cl-].[Na+].O
product | 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropionaldehyde | 22.5 g | CC1=C(C(N(CO1)C(C=O)(C)C)=O)C1=CC=CC=C1 | C15H17NO3
